US06987114B1
1-(3,5-Dichlorobenzyl)-5-isopropyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione
5-isopropyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione and 3,5-dichlorobenzyl bromide were reacted by the same way with the example 1 to obtain the titled compound (250 mg, yield: 55.6%).

reactant | 5-isopropyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione | C(C)(C)C=1C(NC(NC1SC1=CC(=CC(=C1)C)C)=O)=O | C15H18N2O2S
reactant | 3,5-dichlorobenzyl bromide | ClC=1C=C(CBr)C=C(C1)Cl | C7H5BrCl2
product | 1-(3,5-Dichlorobenzyl)-5-isopropyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione | 250 mg, yield: 55.6% | ClC=1C=C(CN2C(NC(C(=C2SC2=CC(=CC(=C2)C)C)C(C)C)=O)=O)C=C(C1)Cl | C22H22Cl2N2O2S
